*
.SUBCKT BSR33 1 2 3
* housing parasitics
LB 2 22 3.454E-09
LE 3 33 3.543E-09
LC 1 11 1.0E-13
CBCG 22 11 1.7E-13
CBEG 22 33 6.5E-14
CCEG 11 33 1.7E-13
Q1 11 22 33 QBSR33
D1 11 22 DIODE
*
* The diode does not reflect
* a physical device. instead it
* improves modeling in the
* reverse mode of operation
*
.MODEL QBSR33 PNP
+(
+ IS = 9.479E-14
+ NF = 0.9941
+ ISE = 3.842E-14
+ NE = 1.45
+ BF = 159.6
+ IKF = 1.25
+ VAF = 60
+ NR = 0.9918
+ ISC = 1E-14
+ NC = 1.3
+ BR = 14.96
+ IKR = 0.1
+ VAR = 22
+ RB = 13
+ IRB = 0.0002
+ RBM = 0.1
+ RE = 0.1007
+ RC = 0.12
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 1.043E-10
+ VJE = 0.8422
+ MJE = 0.4153
+ TF = 7.2E-10
+ XTF = 3.2
+ VTF = 6
+ ITF = 1
+ PTF = 0
+ CJC = 4.616E-11
+ VJC = 0.7383
+ MJC = 0.5119
+ XCJC = 1
+ TR = 3.1E-07
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.98
+)
*
.MODEL DIODE D
+(
+ IS = 1.307E-13
+ N = 1.078
+ BV = 1000
+ IBV = 0.001
+ RS = 243.7
+ CJO = 1E-15
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 3E-07
+ EG = 1.11
+ XTI = 3
+)
.ENDS
*